US07595401B2
8-(2,5-Dimethoxy-phenylsulfanyl)-3-(4-fluoro-benzyl)-3H-purin-6-ylamine
The title compound was prepared from 8-(2,5-dimethoxy-phenylsulfanyl)-9H-purin-6-ylamine and 1-bromomethyl-4-fluoro-benzene by a procedure similar to examples 1 and 2. The compound was purified by preparative HPLC. 8-(2,5-Dimethoxy-phenylsulfanyl)-3-(4-fluoro-benzyl)-3H-purin-6-ylamine: Yield 34%, 1H NMR (DMSO-d6) δ 8.55 (s, 1H), 8.1 (bs, 2H), 7.51 (m, 2H), 7.15 (m, 2H), 6.97 (m, 2H), 6.76 (dd, J=8.8, 2.8 Hz, 1H), 5.44 (s, 2H), 3.74 (s, 3H), 3.50 (s, 3H); LC-MS [M+H]+ 412.1.

reactant | 8-(2,5-dimethoxy-phenylsulfanyl)-9H-purin-6-ylamine | COC1=C(C=C(C=C1)OC)SC=1NC2=NC=NC(=C2N1)N | C13H13N5O2S
reactant | 1-bromomethyl-4-fluoro-benzene | BrCC1=CC=C(C=C1)F | C7H6BrF
product | 8-(2,5-Dimethoxy-phenylsulfanyl)-3-(4-fluoro-benzyl)-3H-purin-6-ylamine | Yield 34% | COC1=C(C=C(C=C1)OC)SC=1N=C2N(C=NC(=C2N1)N)CC1=CC=C(C=C1)F | C20H18FN5O2S
